US06579874B2
4-(4-Fluorophenyl-5-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)-2-(1-piperazinyl)oxazole
4-(4-Fluorophenyl)-5-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)-2-(4-ethoxy-carbonylpiperazin-1-yl)oxazole (130 mg; 0.251 mmol in CHCl3 (2.6 ml) is treated with trimethylsilyl iodide (0.113 ml; 0.83 mmol) at 60 C. After 3 h a second portion of trimethylsilyl iodide (0.113 ml; 0.83 mmol) is added and the reaction heated at 60 C for 21 h. 6 M HCl in 1-propanol (3 ml) is added to the reaction mixture, stirred until dissolution is complete and then poured on a saturated solution of Na2CO3.

reactant | 4-(4-Fluorophenyl)-5-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)-2-(4-ethoxy-carbonylpiperazin-1-yl)oxazole | FC1=CC=C(C=C1)C=1N=C(OC1C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)N1C(CN(CC1)OCC)=C=O | C28H27FN6O3
reactant | trimethylsilyl iodide | 0.83 mmol, 0.113 ml | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyl iodide | 0.83 mmol, 0.113 ml | C[Si](C)(C)I | C3H9ISi
reactant | HCl | 6 M | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CHCl3 | 2.6 ml | C(Cl)(Cl)Cl | CHCl3
solvent | 1-propanol | 3 ml | C(CC)O | C3H8O
product | 4-Fluorophenyl-5-(2-[1-(S)-phenylethyl]amino-4-pyrimidyl)-2-(1-piperazinyl)oxazole | FC1=CC=C(C=C1)C=1N=C(OC1C1=NC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)N1CCNCC1 | C25H25FN6O
